US06544976B1
(2S)-1-(1,2-dioxo-2-phenylethyl)azetidine-2-carboxylic acid
To a solution of (2S)-methyl-1-(1,2-dioxo-2-phenylethyl)azetidine-2-carboxylate from Reference Example 9 (522.5 mg; 2.11 mmol) in a 1:1 mixture of ether:methanol (20.0 mL) was added 1N LiOH in water (3.9 mL) at about 0° C. The mixture was stirred under argon at about 0° C. for about 30 minutes and then at about room temperature overnight. The pH was adjusted to about pH 1 by adding 1N HCl and then the mixture was diluted with water and extracted with dichloromethane. The organic layers were then washed with brine, dried over sodium sulfate and concentrated to give 415.2 mg (67% yield) of the product as a yellow solid. 1H NMR (CDCl3) δ 2.33-2.91 (series of m, 2H); 4.08-4.51 (series of m, 2H); 5.09 and 5.31 (dd, 1H, J=10.3, 6.9, J=10.3, 6.9); 7.40-7.73 (m, 3H); 8.04-8.19 (m, 2H); 8.25-8.80 (br, 1H).

reactant | (2S)-methyl-1-(1,2-dioxo-2-phenylethyl)azetidine-2-carboxylate | COC(=O)[C@H]1N(CC1)C(C(C1=CC=CC=C1)=O)=O | C13H13NO4
reactant | ether | CCOCC | C4H10O
reactant | LiOH | 1N | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | water | 3.9 mL | O | H2O
solvent | methanol | 20.0 mL | CO | CH4O
product | (2S)-1-(1,2-dioxo-2-phenylethyl)azetidine-2-carboxylic acid | 415.2 mg, 67% yield | O=C(C(C1=CC=CC=C1)=O)N1[C@@H](CC1)C(=O)O | C12H11NO4
